US09056865B2
Step 7: 2-{[4-(3-chloro-2,2′-bipyridin-6-yl)piperazin-1-yl]sulfonyl}ethanol
To a cooled −78° C. solution of 3-chloro-6-(4-((2-methoxyethyl)sulfonyl)piperazin-1-yl)-2,2′-bipyridine (134 mg, 0.338 mL) in (2 mL), boron tribromide (0.139 mL, 0.737 mmol) was added. After 1 h, the reaction mixture was warmed to 0° C. and stirred for an additional 1 h. Saturated aqueous bicarbonate (10 mL) was added and extracted with CH2Cl2 (2×10 mL). The combined organic layer was washed with brine (10 mL), dried over sodium sulfate, filtered and concentrated under reduced pressure and purified by column chromatography (60 to 100% ethyl acetate/heptane) to obtain pure product (87 mg, 67% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.65 (d, J=4.80 Hz, 1 H) 7.92 (td, J=7.71, 1.77 Hz, 1 H) 7.75 (d, J=9.09 Hz, 1 H) 7.69 (d, J=7.83 Hz, 1 H) 7.44 (td, J=6.19, 1.01 Hz, 1 H) 6.99 (d, J=8.84 Hz, 1 H) 5.02 (t, J=5.43 Hz, 1 H) 3.75 (q, J=6.06 Hz, 2 H) 3.59-3.67 (m, 4 H) 3.24-3.30 (m, 4 H) 3.21 (t, J=6.19 Hz, 2 H). LCMS (M+H)+: 383.0.

reactant | 3-chloro-6-(4-((2-methoxyethyl)sulfonyl)piperazin-1-yl)-2,2′-bipyridine | 0.338 mL, 134 mg | ClC=1C(=NC(=CC1)N1CCN(CC1)S(=O)(=O)CCOC)C1=NC=CC=C1 | C17H21ClN4O3S
reactant | boron tribromide | 0.737 mmol, 0.139 mL | B(Br)(Br)Br | BBr3
solvent | bicarbonate | 10 mL | C([O-])(O)=O
product | 2-{[4-(3-chloro-2,2′-bipyridin-6-yl)piperazin-1-yl]sulfonyl}ethanol | 87 mg, 67% yield | ClC=1C(=NC(=CC1)N1CCN(CC1)S(=O)(=O)CCO)C1=NC=CC=C1 | C16H19ClN4O3S
